US08912338B2
Preparation of ethyl 1-(methylthiomethyl)cyclopropanecarboxylate
Sodium methanethiolate (700 mg, 9.9 mmol, 2.0 equiv) was added to a stirred solution of ethyl 1-((methylsulfonyloxy)methyl)cyclopropanecarboxylate (1.1 g, 4.9 mmol, 1.0 equiv) in N,N-dimethylformamide (10 mL) at 23° C. The resulting brown suspension was stirred at 23° C. for 18 h. The reaction mixture was diluted with water (500 mL) and extracted with diethyl ether (4×100 mL). The combined organic layers were dried (MgSO4), gravity-filtered, and concentrated by rotary evaporation to afford the title compound as a brown oil (860 mg, 99%): 1H NMR (300 MHz, CDCl3) δ 4.14 (q, J=7 Hz, 2H), 2.83 (s, 2H), 2.16 (s, 3H), 1.31 (dd, J=7, 4 Hz, 2H), 1.25 (t, J=7 Hz, 3H), 0.89 (dd, J=7, 4 Hz, 2H).

reactant | Sodium methanethiolate | 9.9 mmol, 700 mg, 2.0 equiv | C[S-].[Na+]
reactant | ethyl 1-((methylsulfonyloxy)methyl)cyclopropanecarboxylate | 4.9 mmol, 1.1 g, 1.0 equiv | CS(=O)(=O)OCC1(CC1)C(=O)OCC | C8H14O5S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | ethyl 1-(methylthiomethyl)cyclopropanecarboxylate | 860 mg, 99% | CSCC1(CC1)C(=O)OCC | C8H14O2S
